US07777047B2
N-{5-(2-methoxyethoxy)-2-[(4R)-4-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide
A solution of ((4R)-2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-4-yl)methyl methanesulfonate (0.1 g), morpholine (0.032 mL) and potassium carbonate (0.050 g) in N,N-dimethylformamide (5 mL) was stirred at room temperature for 18 hr, and the mixture was stirred at 50° C. for 6 hr. The same amount of morpholine (0.032 mL) and potassium carbonate (0.050 g) were added, and the mixture was stirred at 80° C. for 18 hr. The reaction mixture was concentrated, and the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate-methanol (4:1:0-0:10:1, volume ratio) to give the title compound (0.002 g, yield 2%) as a colorless amorphous solid.

reactant | ((4R)-2-{5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-4-yl)methyl methanesulfonate | 0.1 g | CS(=O)(=O)OC[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C | C22H26N4O7S3
reactant | morpholine | 0.032 mL | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 0.050 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.032 mL | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 0.050 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-{5-(2-methoxyethoxy)-2-[(4R)-4-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 0.002 g, yield 2% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC[C@H](N1)CN1CCOCC1 | C25H31N5O5S2
